US07022707B2
Piperazine-1,4-dicarboxylic acid tert-butyl ester 4-trifluoromethoxy-benzyl ester:
652 mg (1.5 mmol) PS-BEMP and 373 mg (1.5 mmol) 4-chlorocarbonyl-piperazine-1-carboxylic acid tert-butyl ester was added to a solution of 192 mg (1.0 mmol) 4-trifluoromethoxybenzyl alcohol in 5 ml acetonitrile. The mixture was heated to reflux for 24 h then cooled to rt, diluted with 5 ml acetonitrile, 666 mg (4.5 mmol) PS-NH2 added and shaken at rt for 16 h. After filtration and evaporation the crude product is purified by flash chromatography on silica gel with hexane/AcOEt 50:50: 180 mg colourless crystalline solid. 1H-NMR (CDCl3): 1.45 s, 9H, 3.35–3.55 m, 8H, 5.14 s, 2H, 7.20 d, 2H and 7.40 d, 2H, AB-system.

reactant | BEMP | CCN(CC)P1(=NC(C)(C)C)N(CCCN1C)C | C13H31N4P
reactant | 4-chlorocarbonyl-piperazine-1-carboxylic acid tert-butyl ester | 1.5 mmol, 373 mg | C(C)(C)(C)OC(=O)N1CCN(CC1)C(=O)Cl | C10H17ClN2O3
reactant | 4-trifluoromethoxybenzyl alcohol | 1.0 mmol, 192 mg | FC(OC1=CC=C(CO)C=C1)(F)F | C8H7F3O2
solvent | acetonitrile | 5 ml | C(C)#N | C2H3N
solvent | acetonitrile | 5 ml | C(C)#N | C2H3N
product | Piperazine-1,4-dicarboxylic acid tert-butyl ester 4-trifluoromethoxy-benzyl ester | FC(OC1=CC=C(COC(=O)N2CCN(CC2)C(=O)OC(C)(C)C)C=C1)(F)F | C18H23F3N2O5
